US04672075
A. 3-Iodo-1-tetrahydro-2-pyranyloxy propane
A solution of 3-iodopropanol (15 g, 80.65 mole), dihydropyran (14.7 ml, 161.29 mole) and pyridium p-toluenesulfonate (500 g, 2.0 mole) in 100 ml of dry dichloromethane was stirred at room temperature under an atmosphere of nitrogen for 2.5 hours. The resulting mixture was diluted with dichloromethane (150 ml), washed with water and a saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was flash chromatographed on a silica gel to give 20.43 g of the title A compound as an oil.

reactant | 3-iodopropanol | 80.65 mole, 15 g | ICCCO | C3H7IO
reactant | dihydropyran | 161.29 mole, 14.7 ml | O1CCCC=C1 | C5H8O
reactant | pyridium p-toluenesulfonate | 2.0 mole, 500 g | C=1C=CC(=CC1)N=NC=2C=CC(=NC2N)N.Cl.CC=1C=CC(=CC1)S(=O)(=O)O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 3-Iodo-1-tetrahydro-2-pyranyloxy propane | ICCCOC1OCCCC1 | C8H15IO2
